US06133258
The reaction procedure of Example 11 was followed except that 900 mg (2.69 mmol) of 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 24 mg of lithium hydride and 507 mg of benzyl bromide were used. The resulting residue was then purified through silica gel column chromatography (eluant: chloroform) to obtain 746 mg of 3-benzyl-2-[(4-chlorophenyl)imino]-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-4-one (65%, recrystallized from a mixture of ether and hexane) as a low polarity substance and 163 mg of 2-[N-benzyl-N-(4-chlorophenyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one (14%, recrystallized from ether) as a high polarity substance.

reactant | 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 2.69 mmol, 900 mg | ClC1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C13H8ClN3OS
reactant | lithium hydride | 24 mg | [H-].[Li+]
reactant | benzyl bromide | 507 mg | C(C1=CC=CC=C1)Br | C7H7Br
product | 3-benzyl-2-[(4-chlorophenyl)imino]-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 746 mg | C(C1=CC=CC=C1)N1C(SC2=C(C1=O)C=CC=N2)=NC2=CC=C(C=C2)Cl | C20H14ClN3OS
